* A-P3-DRAFT ECO: direct gate drive, series RC branch, standard 10 mOhm shunt.
* Kelvin force stubs, fuse, FETs and IC models retain documented approximations.
.subckt PDB_CURRENT VIN VOUT V3V3 GP GF COMMON FAULT ALERT SCL SDA GND
+ PARAMS: CDERATE=0.65 CDERATE3=0.50 RXT60=0.3m RFUSE=23.48m
+          RSHUNT=10m R1V=249k RUVBV=11.8k ROVTV=2Meg ROVBV=54.9k
+          RHV_VOUT=1G RHV_V3V3=1G RHV_GP=4.99Meg

RJ1P VIN   VBAT_RAW {RXT60}

RF1  VBAT_RAW VBAT_FUSED {RFUSE}

XD1  VBAT_FUSED GND SMAJ24CA

XU1  VBAT_FUSED N_UV N_OV N_RETRY GND SHDN_LTC FAULT SHUNT_LO SHUNT_HI GP
+    LTC4368-1

R1    VBAT_FUSED N_UV  {R1V}
R2    N_UV       GND   {RUVBV}
R14   GP         N_UV  {RHV_GP}
R3    VBAT_FUSED N_OV  {ROVTV}
R13   N_OV       GND   {ROVBV}

R6   VBAT_FUSED SHDN_LTC 680k
R7   SHDN_LTC   GND      200k
C3   N_RETRY GND 100n

RGF GP GF 1m ; gate copper parasitic, not a fitted component
R4 GP GATE_RC 22k
C1   GATE_RC GND 1u Rser=50m
* D2 omitted; gate directly driven as in ADI Figure 7.

MQ1  VBAT_FUSED     GF COMMON COMMON ISC015N06NM5LF2
MQ2  PDB_PROTECTED  GF COMMON COMMON ISC015N06NM5LF2

RSH_F1 PDB_PROTECTED SHUNT_HI 0.5m
RSH    SHUNT_HI      SHUNT_LO {RSHUNT}
RSH_F4 SHUNT_LO      VOUT     0.5m
C2   SHUNT_LO GND 1u Rser=20m

R9   SHUNT_HI INA_IN_P 10
R8   SHUNT_LO INA_IN_N 10
C7   INA_IN_P INA_IN_N 100n Rser=30m
XU2  INA_IN_P INA_IN_N VOUT V3V3 GND INA_ALERT_LOCAL_N INA228_ANALOG
R10  V3V3 INA_ALERT_LOCAL_N 4.7k
XU4  INA_ALERT_LOCAL_N ALERT V3V3 GND BUF_74AUP1G07

XU3  V3V3 PDB_LDO_ADJ NC3 GND VOUT NC6 NC7 VOUT LT3010
R11  V3V3        PDB_LDO_ADJ 1.58k
R12  PDB_LDO_ADJ GND         1k
C10  V3V3        PDB_LDO_ADJ 100n Rser=30m

C4   VOUT GND {10u*CDERATE}  Rser=5m
C9   VOUT GND {10u*CDERATE}  Rser=5m
C6   V3V3 GND {10u*CDERATE3} Rser=10m
C5   V3V3 GND 100n Rser=30m
C8   V3V3 GND 100n Rser=30m
D3   GND VOUT MBR0540

R15  FAULT V3V3 10k
R16  ALERT V3V3 10k

* R17 DNP; host owns pull-up.
* R18 DNP; host owns pull-up.

.ends PDB_CURRENT
